US05496927
Boc-L-alanine methyl ester (5.0 g, 24.6 mmol) was dissolved in dry toluene (150 ml) under an argon atmosphereand cooled in a dry ice-acetone bath. To this vigorously stirred solution was added a solution of diisobutylaluminumhydride (1.0M in hexanes, 61.5 ml, 61.5 mmol), pre-cooled in a dry ice-acetone bath, via a transfer needle. After 6 minutes, the reaction was carefully quenched with methanol (4 ml) and the mixture allowed to warm to room temperature. The reaction mixture was poured into a separatory funnel containing 250 ml ether and 200 ml of ice cold 0.25N hydrochloric acid. The layers were separated and the organic layer was washed with 0.25N hydrochloric acid (3×80 ml) and brine (50 ml). The organic layer was dried overmagnesium sulfate, filtered and concentrated using a rotary evaporator at ambient temperature. The residue was chromatographed using hexanes--30% ethylacetate to give Boc-L-alaninal. The compound may also be prepared by the technique described in Synthesis, 1983, pg. 676.

reactant | Boc-L-alanine methyl ester | 24.6 mmol, 5.0 g | COC([C@@H](NC(=O)OC(C)(C)C)C)=O | C9H17NO4
reactant | diisobutylaluminumhydride | 61.5 mmol, 1.0M, 61.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Boc-L-alaninal | C(=O)(OC(C)(C)C)N[C@@H](C)C=O | C8H15NO3
